US05480879
5) cis-2-Oxa-5,8-diazabicyclo[4.3.0]nonane dihydro chloride
26 g (0.11 mol, 92% strength) of cis-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane are hydrogenated on 3 g of palladium/active charcoal (10% Pd) at 100° C. and 100 bar H2 in 180 ml of ethanol and 19 ml of concentrated hydrochloric acid. The catalyst is filtered off with suction, the filtrate is concentrated and the crystals which have separated out are dried in a desiccator over phosphorus pentoxide.

reactant | cis-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 0.11 mol, 26 g | C(C1=CC=CC=C1)N1CCO[C@@H]2CNC[C@H]12 | C13H18N2O
reactant | hydrochloric acid | 19 ml | Cl | ClH
solvent | ethanol | 180 ml | C(C)O | C2H6O
catalyst | palladium | 3 g | [Pd] | Pd
product | cis-2-Oxa-5,8-diazabicyclo[4.3.0]nonane dihydro chloride | Cl.Cl.[C@@H]12OCCN[C@H]2CNC1 | InChI=1S/C6H12N2O.2ClH/c1-2-9-6-4-7-3-5(6)8-1;;/h5-8H,1-4H2;2*1H/t5-,6+;;/m0../s1
